US06335360B1
Methyl 2-azido-3-(2-chlorophenyl)propenoate
Sodium pieces(3.678 g, 160 mmol) were added in portions to methanol (200 ml) over a 30 minute period. The resulting solution was cooled in a dry ice/acetone bath to −18° C. and then over one hour a mixture of 2-chlorobenzaldehyde (4.832 g, 40 mmol) and methyl azidoacetate (160 mmol) was added at a rate that maintained the temperature below −15° C. After three hours, the solution was stored at 5° C. for two days to give crystalline material which was collected by filtration and washed with cold hexane to give pure product as a yellow crystals.

reactant | Sodium | [Na] | Na
reactant | 2-chlorobenzaldehyde | 40 mmol, 4.832 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | methyl azidoacetate | 160 mmol | N(=[N+]=[N-])CC(=O)OC | C3H5N3O2
solvent | methanol | 200 ml | CO | CH4O
product | Methyl 2-azido-3-(2-chlorophenyl)propenoate | N(=[N+]=[N-])C(C(=O)OC)=CC1=C(C=CC=C1)Cl | C10H8ClN3O2
